US09085570B2
A solution of methyl 4-(5-methyl-4-((4-(2-morpholinoethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate (600 mg, 1.24 mmol, 1.00 equiv) in 6N hydrochloric acid (30 mL) was refluxed for 8 h. The reaction mixture was cooled to room temperature and concentrated under vacuum to give 0.6 g (96%) of 4-(5-methyl-4-((4-(2-morpholinoethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride as a white solid.

reactant | methyl 4-(5-methyl-4-((4-(2-morpholinoethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 1.24 mmol, 600 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCN1CCOCC1 | C25H28N2O6S
reactant | hydrochloric acid | 6N, 30 mL | Cl | ClH
product | 4-(5-methyl-4-((4-(2-morpholinoethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride | 0.6 g, 96% | Cl.CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCN1CCOCC1 | InChI=1S/C24H26N2O6S.ClH/c1-17-22(25-23(32-17)19-4-6-20(7-5-19)24(27)28)16-33(29,30)21-8-2-18(3-9-21)10-11-26-12-14-31-15-13-26;/h2-9H,10-16H2,1H3,(H,27,28);1H
